US07790770B2
To a solution of (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone, prepared as described in Procedure 3, 4, 59 and 68, (207 mg, 0.53 mmol) in pyridine (1.5 mL) was added hydroxylamine hydrochloride (192 mg, 2.8 mmol) and the reaction mixture was heated at 100° C. for 2 h. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in EtOAc (50 mL). The organic portion was washed with 1 N HCl (2×20 mL), water (20 mL) and sat. NaCl (20 mL), then dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by ISCO (40 g silica gel column, 0-30% EtOAc/hexane over 30 min) to yield (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone oxime (216 mg, 77% yield) as a colorless oil. LCMS: RT=2.13 min [M+H] 408.2 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm).

reactant | (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone | FC1=C(C=C(C=C1)C(=O)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)OC(C)C | C18H14F6O3
reactant | hydroxylamine hydrochloride | 2.8 mmol, 192 mg | Cl.NO
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone oxime | 216 mg, 77% yield | FC1=C(C=C(C=C1)C(=NO)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)OC(C)C | C18H15F6NO3
